US09334286B2
Preparation 65: 7-Bromo-2-methyl-1,6-naphthyridine
(E)-4-(4-Amino-6-bromopyridin-3-yl)but-3-en-2-one (Preparation 66, 331 mg 1.37 mmol) and sodium thiomethoxide (97.5 mg 1.39 mmol) were stirred in ethanol (2.9 mL) at 20° C. for 50 minutes. Iodomethane (86 uL, 1.38 mmole) was added and the reaction stirred for another 45 minutes. The reaction was concentrated in vacuo and diluted with ethyl acetate (30 mL) and washed with water (10 mL). The aqueous was back extracted with ethyl acetate (5 mL) and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound (275 mg, 89%).

reactant | (E)-4-(4-Amino-6-bromopyridin-3-yl)but-3-en-2-one | 1.37 mmol, 331 mg | NC1=C(C=NC(=C1)Br)/C=C/C(C)=O | C9H9BrN2O
reactant | sodium thiomethoxide | 1.39 mmol, 97.5 mg | C[S-].[Na+]
reactant | Iodomethane | 1.38 mmole, 86 uL | IC | CH3I
solvent | ethanol | 2.9 mL | C(C)O | C2H6O
product | 7-Bromo-2-methyl-1,6-naphthyridine | 275 mg, 89% | BrC1=NC=C2C=CC(=NC2=C1)C | C9H7BrN2
